US08383825B2
(S)-Ethyl 1-[(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetyl]piperidine-3-carboxylate
In a manner similar to that described in Example 534, (S)-Ethyl (N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate and ethyl nipecotate were reacted to give the title compound

reactant | (S)-Ethyl (N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate | CC1=C(OC=C1)C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=[S@@](=O)(C1=CC=CC=C1)CC(=O)OCC | C30H25N3O6S
reactant | ethyl nipecotate | N1CC(C(=O)OCC)CCC1 | C8H15NO2
product | (S)-Ethyl 1-[(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetyl]piperidine-3-carboxylate | CC1=C(OC=C1)C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C1=CC=CC=C1)CC(=O)N1C[C@H](CCC1)C(=O)OCC | C36H34N4O7S
